US07915424B2
(a) Trimethyl-(3-trifluoromethoxyphenylethynyl)-silane
Add copper (I) iodide (45.0 mg, 0.24 mmol), bis(triphenylphosphine)palladium (II) dichloride (147.4 m g, 0.21 mmol) and triethylamine (2.37 mL, 16.8 mmol), to a solution of 1-bromo-3-trifluoromethoxybenzene (0.62 mL, 4.15 mmol) and trimethylsilylacetylene (0.78 mL, 5.4 mmol), in ethyl acetate (4 mL) and stir at 50° C. for 18h. Cool the reaction mixture to room temperature, concentrate and purify by silica gel chromatography, eluting with hexanes to give the title compound (1.07 g, 100%).

reactant | triethylamine | 16.8 mmol, 2.37 mL | C(C)N(CC)CC | C6H15N
reactant | 1-bromo-3-trifluoromethoxybenzene | 4.15 mmol, 0.62 mL | BrC1=CC(=CC=C1)OC(F)(F)F | C7H4BrF3O
reactant | trimethylsilylacetylene | 5.4 mmol, 0.78 mL | C[Si](C)(C)C#C | C5H10Si
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
catalyst | copper (I) iodide | 0.24 mmol, 45.0 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 0.21 mmol | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | Trimethyl-(3-trifluoromethoxyphenylethynyl)-silane | 1.07 g, 100% | C[Si](C#CC1=CC(=CC=C1)OC(F)(F)F)(C)C | C12H13F3OSi
